US07589095B2
To a solution of 4-(3-benzyloxy-propyl)-6-(3-methylsulphamoyl-5-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile (14.4 mg) in acetonitrile (700 μL) and water (300 μL) was added cerium sulphate (3 mg) and barium bromate (6 mg). The mixture was heated to reflux overnight then filtered through a sinter glass funnel, the residue washed with DCM (10 mL). The filtrate was washed with saturated sodium thiosulphate (10 mL) organics separated, dried over sodium sulphate, filtered, and solvent was removed under reduced pressure to yield crude product. Purification by preparative-H PLC afforded 4-(3-hydroxy-propyl)-6-(3-methylsulphamoyl-5-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile (3.2 mg).

reactant | 4-(3-benzyloxy-propyl)-6-(3-methylsulphamoyl-5-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 14.4 mg | C(C1=CC=CC=C1)OCCCC1=NC(=NC(=C1)C1=CC(=CC(=C1)C(F)(F)F)S(NC)(=O)=O)C#N | C23H21F3N4O3S
reactant | cerium sulphate | 3 mg | S(=O)(=O)([O-])[O-].[Ce+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Ce+3]
reactant | barium bromate | 6 mg | Br(=O)(=O)[O-].[Ba+2].Br(=O)(=O)[O-]
solvent | acetonitrile | 700 μL | C(C)#N | C2H3N
solvent | water | 300 μL | O | H2O
product | 4-(3-hydroxy-propyl)-6-(3-methylsulphamoyl-5-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 3.2 mg | OCCCC1=NC(=NC(=C1)C1=CC(=CC(=C1)C(F)(F)F)S(NC)(=O)=O)C#N | C16H15F3N4O3S
